US04078071
600 Mg. of 1-(2-chloro-4-phenylbutyl) imidazole hydrochloride was added to a fully reacted mixture of 1.1 g. of 3,4-dichlorobenzylmercaptan and 400 mg. of 56% sodium hydride dispersion in mineral oil in 30 ml. of tetrahydrofuran. After stirring under reflux for 12 hours the solvent was evaporated under vacuum and 150 ml. of ether was added. The resulting mixture was washed twice with water and the ethereal solution dried and evaporated to afford 1-[2-(3,4-dichlorobenzylthio)-4-phenylbutyl]imidazole, as an oil. This material was converted to the oxalate salt by treatment of an ethereal solution wih oxalic acid in ether until precipitation was complete, which salt was recrystallized from acetone/ethyl acetate as colorless flakes (660 mg.), m.p. 143.5°-146° C.

reactant | 1-(2-chloro-4-phenylbutyl) imidazole hydrochloride | Cl.ClC(CN1C=NC=C1)CCC1=CC=CC=C1
reactant | 3,4-dichlorobenzylmercaptan | ClC=1C=C(CS)C=CC1Cl | C7H6Cl2S
reactant | sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[2-(3,4-dichlorobenzylthio)-4-phenylbutyl]imidazole | ClC=1C=C(CSC(CN2C=NC=C2)CCC2=CC=CC=C2)C=CC1Cl | C20H20Cl2N2S
